US05672724
1.1 Synthesis of 5-[(dimethylamino)methyl]-2-(chloromethyl)-furan hydrochloride
Combine 5-[(dimethylamino)methyl]-furfuryl alcohol (25 g) and dichloromethane (100 mL). Cool to 0° C. Add dropwise, thionyl chloride (20 mL) at such a rate that the reaction does not rise above 5° C. After 0.5 hours, evaporate in vacuo to give a residue, Recrystallize the residue from ethanol to give the title compound: mp; 164°-165° C. (dec).

reactant | 5-[(dimethylamino)methyl]-furfuryl alcohol | 25 g | CN(C)CC1=CC=C(CO)O1 | C8H13NO2
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 5-[(dimethylamino)methyl]-2-(chloromethyl)-furan hydrochloride | Cl.CN(C)CC1=CC=C(O1)CCl | InChI=1S/C8H12ClNO.ClH/c1-10(2)6-8-4-3-7(5-9)11-8;/h3-4H,5-6H2,1-2H3;1H
